US05382592
5-Nitro-3-(2-hydroxyethyl)indole (5)
To a solution of 5-nitro-2-trimethylsilyl-3-(2-t-butyldimethylsiloxyethyl)indole (7.30 g, 0.019 mol) in 125 mL of acetonitrile was added 48% HF (3.0 mL, 0.084 mol) and the mixture was stirred at room temperature for 1 h. Another 2.5 mL (0.07 mol) of 48% HF was added and stirring was continued for 18 h. The mixture was then cautiously basified with saturated aqueous Na2CO3 and extracted with ethyl acetate. The organic extract was washed (brine), dried (Na2SO4) and evaporated to give a gum. This material was triturated with ether and the supernatant was evaporated to give a gum. Chromatography (SiO2 /hexane-ethyl acetate, 1:1) of this gum gave the title compound (2.24 g, 57%) as a solid, mp 90° C.: IR (neat) 3380 (br), 1622, 1330 cm-1 ; 1H NMR (CDCl3, 200 MHz) δ8.60 (d, J=1.7 Hz, 1 H), 8.48 (br s, 1H), 8.12 (dd, J=9.0, 1.7 Hz, 1H), 7.40 (d, J=9.0 Hz, 1H), 3.96 (t, J=6.3 Hz, 2H), 3.07 (t, J=6.3 Hz, 2H), 1.56 (s, 1H).

reactant | 5-nitro-2-trimethylsilyl-3-(2-t-butyldimethylsiloxyethyl)indole | 0.019 mol, 7.30 g | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)[Si](C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H32N2O3Si2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 5-Nitro-3-(2-hydroxyethyl)indole | 2.24 g, 57% | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCO | C10H10N2O3
